US04058539
A solution of 200 mg. of 19-hydroxy-17β-pivaloxyandrosta-4,6-dien 3-one in 2 ml. of dimethyl sulfoxide was treated with 400 mg. of sodium methoxide under nitrogen for 15 seconds. The mixture was then poured into 20 ml. of half-frozen 10% aqueous acetic acid, stirred for a few minutes under nitrogen and filtered to yield a precipitate, which had λ max 321 mμ and consisted essentially of 3,19-dihydroxy-17β-pivaloxyandrosta-3,5, 7-triene. The latter product was then treated with an equal amount of chloranil in 20 volumes of toluene at room temperature for 10 minutes. Extraction with aqueous potassium hydroxide and evaporation afforded 19-hydroxy-17β-pivaloxyandrosta-4,6,8(14)-trien 3-one as indicated by tlc and uv-spectroscopy.

reactant | 19-hydroxy-17β-pivaloxyandrosta-4,6-dien 3-one | OC[C@]12CCC(C=C1C=C[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(C(C)(C)C)=O)=O | C24H34O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | 3,19-dihydroxy-17β-pivaloxyandrosta-3,5, 7-triene | OC1=CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)OC(C(C)(C)C)=O | C24H34O4
reactant | chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 19-hydroxy-17β-pivaloxyandrosta-4,6,8(14)-trien 3-one | OC[C@]12CCC(C=C1C=CC1=C3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(C(C)(C)C)=O)=O | C24H32O4
